US06891066B2
2-(4-Allyl-2-fluoroanilino)-3,4-difluorobenzoic acid (700 mg, 2.28 mmol) was dissolved in MeOH (20 mL) to which was added 2-(aminooxy)ethanol (263 mg, 3.42 mmol), followed by 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methymorpholinium chloride [DMT-MM, prepared according to the procedure of Kunishima et al [Tetrahedron, 55, 13159-13170 (1999)]] (946 mg, 3.42 mmol). This mixture was stirred 15 h. at room temperature. The MeOH was removed under reduced pressure and the resulting oil dissolved in EtOAc (100 mL), which was washed with water (2×100 mL), brine (100 mL) and dried (Na2SO4). The solvent was removed under reduced pressure to afford a crude yellow oil which was purified by filtration through a plug of silica gel (50% EtOAc/PE as eluant) to give 2-(4-allyl-2-fluoroanilino)-3,4-difluoro-N-(2-hydroxyethoxy)benzamide as a white solid (734 mg, 88%); m.p. (EtOAc/hexane) 173-177° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.85 (br s, 1 H), 8.75 (br s, 1 H), 7.43-7.37 (m, 1 H), 7.14-7.07 (m, 1 H), 7.05-6.99 (m, 1 H), 6.90-6.81 (m, 2 H), 5.99-5.87 (m, 1 H), 5.02-5.11 (m, 2 H), 4.70 (br s, 1 H), 3.85 (t, J=4.9 Hz, 1 H), 3.57 (t, J=4.9 Hz, 1 H), 3.51-3.40 (m, 2H, obscured by H2O). Anal. calcd. for C18H17F3N2O3: C, 59.0; H, 4.7; N, 7.7. Found C, 59.1; H, 4.5; N, 7.4.

reactant | 2-(4-Allyl-2-fluoroanilino)-3,4-difluorobenzoic acid | 2.28 mmol, 700 mg | C(C=C)C1=CC(=C(NC2=C(C(=O)O)C=CC(=C2F)F)C=C1)F | C16H12F3NO2
reactant | 2-(aminooxy)ethanol | 3.42 mmol, 263 mg | NOCCO | C2H7NO2
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methymorpholinium chloride | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
solvent | MeOH | 20 mL | CO | CH4O
product | 2-(4-allyl-2-fluoroanilino)-3,4-difluoro-N-(2-hydroxyethoxy)benzamide | 734 mg, 88% | C(C=C)C1=CC(=C(NC2=C(C(=O)NOCCO)C=CC(=C2F)F)C=C1)F | C18H17F3N2O3
